US04654336
To a stirred suspension of 100 g of 1-acetyl-4-piperidine carboxylic acid chloride in 500 ml of 1,4-difluorobenzene was added in aliquots, 211 g of anhydrous aluminum chloride. The mixture was stirred at reflux under nitrogen for 3 hrs and allowed to cool to room temperature. The mixture was poured into ice and extracted twice with ethyl acetate. The extracts were washed with saturated sodium bicarbonate solution and dried over anhydrous potassium carbonate. Filtration followed by evaporation of the solvent provided an oil which crystallized on standing. The solid was washed with cyclohexane and dried to provide 73.3 g (52.1%) of 1-acetyl-4-(2,5-difluorobenzoyl)piperidine: mp 82°-87° C. Recrystallization from a mixture of isopropyl alcohol, diisopropyl ether and hexane provided product with mp 93°-95° C.

reactant | 1-acetyl-4-piperidine carboxylic acid chloride | 100 g | C(C)(=O)N1CCC(CC1)C(=O)Cl | C8H12ClNO2
reactant | aluminum chloride | 211 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,4-difluorobenzene | 500 ml | FC1=CC=C(C=C1)F | C6H4F2
product | 1-acetyl-4-(2,5-difluorobenzoyl)piperidine | 73.3 g, 52.1% | C(C)(=O)N1CCC(CC1)C(C1=C(C=CC(=C1)F)F)=O | C14H15F2NO2
